US06605729B1
Amorphous atorvastatin calcium (U.S. Pat. No. 5,273,995) was slurried in a mixture of acetonitrile/water (9:1) to afford crystalline Form V atorvastatin.

reactant | atorvastatin calcium | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2]
solvent | acetonitrile water | C(C)#N.O
product | atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
